US06613942B1
4-Hydroxy-1-naphthaldehyde (10 g, 58 mmoles) was dissolved in pyridine (50 ml) and the mixture was cooled to 0° C. Trifluoromethanesulfonic anhydride (11.7 mL, 70 mmoles) was added dropwise while maintaining the temperature below 5° C. When the addition was completed the mixture was stirred at room temperature for 30 minutes. Diethyl ether (200 mL) was added and the mixture was successively washed with water (2×250 mL), 3 N hydrochloric acid (200 mL), and saturated NaCl (200 mL). The organic phase was dried over MgSO4 and evaporated in vacuo. The residue was purified by column chromatography on silica gel (800 mL) eluting with a mixture of ethyl acetate and heptane (1:4). Pure fractions eluting with Rf=0.46 were pooled and evaporated in vacuo to afford 8.35 g (47%) of trifluoromethanesulfonic acid 4-formyl-1-naphthyl ester, m.p. 44-47° C. The other [Building block 2]'s (3-Bromobenzaldehyde and 4-bromobenzaldehyde) are commercially available.

reactant | 4-Hydroxy-1-naphthaldehyde | 58 mmoles, 10 g | OC1=CC=C(C2=CC=CC=C12)C=O | C11H8O2
reactant | Trifluoromethanesulfonic anhydride | 70 mmoles, 11.7 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | Diethyl ether | 200 mL | C(C)OCC | C4H10O
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | trifluoromethanesulfonic acid 4-formyl-1-naphthyl ester | 8.35 g, 47% | C(=O)C1=CC=C(C2=CC=CC=C12)OS(=O)(=O)C(F)(F)F | C12H7F3O4S
